US04482769
This invention relates to an improvement in a process for purifying dinitrotoluene is prepared by first reacting toluene or mononitrotoluene with nitric acid in the presence of sulfuric acid, separating the crude dinitrotoluene from the resulting aqueous phases and then contacting the resultant crude dinitrotoluene with an alkaline material to form a purified dinitrotoluene product and an aqueous by-product phase. The improvement in the process relates to selectively maintaining a significant proportion of 2,4-dinitroorthocresol in the dinitrotoluene product and away from the effluent waste while permitting other nitrophenolic impurities to pass to the aqueous by-product phase or effluent waste. The improvement comprises: monitoring the pH of the aqueous phase formed during said contacting step with a pH sensitive instrument and then terminating said contacting step when the pH of the resultant aqueous phase is within a pH range of about 5.8 to 6.4.

reactant | mononitrotoluene | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | dinitrotoluene | [N+](=O)([O-])C=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H6N2O4
